US08865732B2
A mixture of 3-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (56.2 mg, 0.225 mmol) and 1-(4,5-dibromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)piperazine (90 mg, 0.204 mmol) in DME (2.1 ml) and 2M aqueous Na2CO3 (0.7 ml) was sparged with Ar for 2 min. Pd(Ph3P)4 (23.6 mg, 0.02 mmol) was added. The mixture was sparged with Argon for an additional 2 min and was heated in a sealed tube in a microwave reactor at 115° C. for 15 min. The reaction mixture was extracted with EtOAc (3×15 mL). The combined organic layers were washed with brine (50 mL), dried (Na2SO4), filtered and concentrated in vacuo. The crude materials of both reactions were combined and purified by preparative TLC (SiO2, 1.0 mm, 90:10 DCM-MeOH) to furnish 5-(5-bromo-2-(piperazin-1-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-4-yl)-3-methoxypyridin-2-amine was isolated as a white solid which was directly used in the next step: LCMS (m/z): 485.2 (MH+), tR=0.56 min.

reactant | 3-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 0.225 mmol, 56.2 mg | COC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)N | C12H19BN2O3
reactant | 1-(4,5-dibromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)piperazine | 0.204 mmol, 90 mg | BrC=1N=C(N(C1Br)COCC[Si](C)(C)C)N1CCNCC1 | C13H24Br2N4OSi
solvent | DME | 2.1 ml | COCCOC | C4H10O2
solvent | Na2CO3 | 2M, 0.7 ml | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(Ph3P)4 | 0.02 mmol, 23.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(5-bromo-2-(piperazin-1-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-4-yl)-3-methoxypyridin-2-amine | BrC1=C(N=C(N1COCC[Si](C)(C)C)N1CCNCC1)C=1C=C(C(=NC1)N)OC | C19H31BrN6O2Si
